US06579902B1
Stage A: Ethyl 2-[(2-Pyridinyl)methoxy]-acetate
0.530 g of sodium hydride is added over 20 minutes at 0° C. to a solution of 1 g of 2-hydroxymethylpyridine and DMF. 1.6 ml of chloroethyl acetate is added at 0° C. 2 ml of a solution of sodium acid phosphate is poured in, then the reaction medium is concentrated under reduced pressure. The product obtained is chromatographed on silica eluting with a methylene chloride methanol mixture 90-10. 4.5 g of product is obtained which is chromatographed on silica eluting with a methylene chloride, methanol mixture 90-10. The product is obtained is purified and 1.30 g of sought product is obtained.

reactant | sodium hydride | 0.530 g | [H-].[Na+]
reactant | 2-hydroxymethylpyridine | 1 g | OCC1=NC=CC=C1 | C6H7NO
reactant | chloroethyl acetate | 1.6 ml | C(C)(=O)OCCCl | C4H7ClO2
reactant | sodium acid phosphate | OP(=O)(O)[O-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 2-[(2-Pyridinyl)methoxy]-acetate | 4.5 g | N1=C(C=CC=C1)COCC(=O)OCC | C10H13NO3
